US07091215B2
N,N-Dicyclopropylmethyl-N-[7-(2-ethoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine
After adding ethanol (2 μL), triphenylphosphine (15 mg) and diethyl azodicarboxylate (9 μL) to a solution of 2-[3-[di(cyclopropylmethyl)amino]-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-7-yl]-3,5-dimethylphenol (15 mg) in tetrahydrofuran (0.45 mL) under a nitrogen atmosphere, the mixture was stirred at room temperature overnight. The reaction mixture was added to water, extraction was performed with ethyl acetate, and the organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography, and the title compound (3.7 mg) was obtained from the n-hexane:ethyl acetate (9:1) fraction as a yellow oil.

reactant | ethanol | 2 μL | C(C)O | C2H6O
reactant | triphenylphosphine | 15 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[3-[di(cyclopropylmethyl)amino]-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-7-yl]-3,5-dimethylphenol | 15 mg | C1(CC1)CN(C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)O)SC)CC2CC2 | C24H29N3OS
solvent | tetrahydrofuran | 0.45 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N,N-Dicyclopropylmethyl-N-[7-(2-ethoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]amine | 3.7 mg | C1(CC1)CN(C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OCC)SC)CC2CC2 | C26H33N3OS
